US04354027
A. 1-Methyl-3-(2'-[3-methylbutanoyl]diazanyl)-6-trifluoromethyl-1H-quinoxalin-2-one
To a solution of 3-hydrazino-1-methyl-6-trifluoromethyl-1H-quinoxalin-2-one (10.0 g., 52.6 mmol) and triethylamine (6.38 g., 63.2 mmol) in 500 ml. of dioxane is added dropwise 3-methylbutanoyl chloride (7.62 g., 65.2 mmol) and the mixture stirred at room temperature for 20 hours. The dioxane is then removed under vacuum and the residue washed with water and ether, filtered and dried under vacuum to give the product.

reactant | 3-hydrazino-1-methyl-6-trifluoromethyl-1H-quinoxalin-2-one | 52.6 mmol, 10.0 g | N(N)C=1C(N(C2=CC=C(C=C2N1)C(F)(F)F)C)=O | C10H9F3N4O
reactant | triethylamine | 63.2 mmol, 6.38 g | C(C)N(CC)CC | C6H15N
reactant | 3-methylbutanoyl chloride | 65.2 mmol, 7.62 g | CC(CC(=O)Cl)C | C5H9ClO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Methyl-3-(2'-[3-methylbutanoyl]diazanyl)-6-trifluoromethyl-1H-quinoxalin-2-one | CN1C(C(=NC2=CC(=CC=C12)C(F)(F)F)NNC(CC(C)C)=O)=O | C15H17F3N4O2
